US09120822B2
Diphenylphosphoryl azide (25.0 mL, 116.0 mmol, 1.5 eq) is added at room temperature to a stirred solution of 4-benzyloxy-6-methoxy-[1,5]naphthyridine-3-carboxylic acid (24.0 g, 77.34 mmol, 1.0 eq) in N,N-dimethylformamide (300 mL), followed by tert-butanol (8.5 mL, 89.71 mmol, 1.16 eq) and triethylamine (104.5 mL, 773.4 mmol, 10.0 eq). After 30 minutes stirring at 70° C. and 2 hours at 100° C., the reaction mixture is cooled down to room temperature, solvent is removed and the residue is extracted with ethyl acetate (3×200 mL) and a saturated sodium hydrogen carbonate aqueous solution (200 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to afford crude (4-benzyloxy-6-methoxy-[1,5]naphthyridin-3-yl)-carbamic acid tert-butyl ester that is directly engaged in the next step.

reactant | Diphenylphosphoryl azide | 116.0 mmol, 25.0 mL, 1.5 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-benzyloxy-6-methoxy-[1,5]naphthyridine-3-carboxylic acid | 77.34 mmol, 24.0 g, 1.0 eq | C(C1=CC=CC=C1)OC1=C(C=NC2=CC=C(N=C12)OC)C(=O)O | C17H14N2O4
reactant | tert-butanol | 89.71 mmol, 8.5 mL, 1.16 eq | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 773.4 mmol, 104.5 mL, 10.0 eq | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | (4-benzyloxy-6-methoxy-[1,5]naphthyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC2=CC=C(N=C2C1OCC1=CC=CC=C1)OC)=O | C21H23N3O4
